US07355049B2
A solution of lithium hydroxide monohydrate (0.085 g, 2.0 mmol) in water (1 mL) was added to a solution of 1-{[5-(biphenyl-4-yloxymethyl)-furan-2-carbonyl]-amino}-cyclopentanecarboxylic acid methyl ester (0.092 g, 0.22 mmol) in tetrahydrofuran (3 mL) and methanol (1 mL). The mixture was stirred overnight at room temperature and then the solvents were evaporated under reduced pressure. 0.5 M NaOH was added and the solution was extracted with ether. The aqueous layer was acidified with 1 M HCl and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried (sodium sulfate), filtered, and evaporated to give 1-{[5-(biphenyl-4-yloxymethyl)-furan-2-carbonyl]-amino}-cyclopentanecarboxylic acid (61 mg, 69%) as a white solid.

reactant | lithium hydroxide monohydrate | 2.0 mmol, 0.085 g | O.[OH-].[Li+]
reactant | 1-{[5-(biphenyl-4-yloxymethyl)-furan-2-carbonyl]-amino}-cyclopentanecarboxylic acid methyl ester | 0.22 mmol, 0.092 g | COC(=O)C1(CCCC1)NC(=O)C=1OC(=CC1)COC1=CC=C(C=C1)C1=CC=CC=C1 | C25H25NO5
solvent | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 1-{[5-(biphenyl-4-yloxymethyl)-furan-2-carbonyl]-amino}-cyclopentanecarboxylic acid | 61 mg, 69% | C1(=CC=C(C=C1)OCC1=CC=C(O1)C(=O)NC1(CCCC1)C(=O)O)C1=CC=CC=C1 | C24H23NO5
